US05962457
To a slurry of 2-methyl-thieno[3,4-d][1,3]oxazin-4-one (1.0 g, 5.99 mmol) and acetic acid (15 mL) was added o-toluidine (1.2 mL, 10.78 mmol). The mixture was refluxed 3 hours, cooled, and concentrated. The residue was partitioned between ethyl acetate and water and the aqueous phase was made basic by careful addition of saturated aqueous sodium bicarbonate. The phases were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with water and brine, dried over sodium sulfate and concentrated to a black oil. The oil was flash chromatographed on silica gel (30×100 mm) eluting with 20% ethyl acetate/hexane. Product fractions were combined to afford 0.303 g of 2-methyl-3-o-tolyl-3H-thieno[3,4-d]pyrimidin-4-one as a tan oil which solidified on standing.

reactant | 2-methyl-thieno[3,4-d][1,3]oxazin-4-one | 5.99 mmol, 1.0 g | CC=1OC(C=2C(N1)=CSC2)=O | C7H5NO2S
reactant | o-toluidine | 10.78 mmol, 1.2 mL | NC=1C(=CC=CC1)C | C7H9N
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 2-methyl-3-o-tolyl-3H-thieno[3,4-d]pyrimidin-4-one | 0.303 g | CC=1N(C(C=2C(N1)=CSC2)=O)C2=C(C=CC=C2)C | C14H12N2OS
